US04261924
40 g of 2-aminothiazole is dissolved in 500 ml of tetrahydrofuran; while stirring and at 10° C., 61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride is added. The addition of water precipitates the sulfenamide, which is filtered and recrystallized from ethyl acetate. There is obtained 50 g (70% of theory) of N-(1,3-thiazol-2-yl)-4-nitro-2-trichloromethylphenylsulfenamide; m.p.: 165° C.

reactant | 2-aminothiazole | 40 g | NC=1SC=CN1 | C3H4N2S
reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-(1,3-thiazol-2-yl)-4-nitro-2-trichloromethylphenylsulfenamide | 50 g, 70% | S1C(=NC=C1)NSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl | C10H6Cl3N3O2S2
